US06451814B1
4-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidin-1-yl]-benzoic Acid Ethyl Ester
Ethyl 4-{4-[4-(dimethoxymethyl)anilino]-1-piperidinyl}benzoate (0.63 g, 01.53 mmol) was added to a pre-prepared mixture of sodium iodide (0.572 g, 3.82 mmol) and trichloro(methyl)silane (0.36 mL, 3.07 mmol) in anhydrous acetonitrile. The reaction was stirred at ambient temperature for 3 minutes. Dichloromethane was added and the reaction washed with 10% sodium thiosulfate solution, water and brine. The organic layer was dried with anhydrous magnesium sulfate, filtered and the solvent partially removed in vacuo. The aldehyde solution was used directly and treated with methanol, tetrahydrofuran, acetic acid (0.091 mL, 1.53 mmol), N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide (0.377 g, 0.1.53 mmol) followed by sodium cyanoborohydride (0.105 g, 1.53 mmol). The reaction was stirred at ambient temperature overnight. The reaction was taken to dryness in vacuo, adsorbed onto silica and purified by flash chromatography on silica gel Merck-60 (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide). The hydrochoride salt of the title compound was generated from anhydrous etheral hydrochloric acid in ethyl acetate (0.14 g, 0.221 mmol).

reactant | Ethyl 4-{4-[4-(dimethoxymethyl)anilino]-1-piperidinyl}benzoate | 0.63 g | COC(C1=CC=C(NC2CCN(CC2)C2=CC=C(C(=O)OCC)C=C2)C=C1)OC | C23H30N2O4
reactant | sodium iodide | 3.82 mmol, 0.572 g | [I-].[Na+]
reactant | trichloro(methyl)silane | 3.07 mmol, 0.36 mL | Cl[Si](C)(Cl)Cl | CH3Cl3Si
reactant | acetic acid | 1.53 mmol, 0.091 mL | C(C)(=O)O | C2H4O2
reactant | N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide | 0.377 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | sodium cyanoborohydride | 1.53 mmol, 0.105 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 0.221 mmol, 0.14 g | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 4-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidin-1-yl]-benzoic Acid Ethyl Ester | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O | C31H40N4O6S
